US07906517B2
Trifluoromethanesulfonic acid 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl ester (200 mg) is dissolved in 1,4-dioxane (3 ml), and thereto are added phenyl boronic acid (69 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane complex (23 mg) and cesium carbonate (183 mg), and the mixture is stirred under nitrogen atmosphere at 80° C. for 1 day. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amine (52 mg). MS (m/z): 641 [M+H]+

reactant | Trifluoromethanesulfonic acid 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl ester | 200 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C26H20F12N4O4S
reactant | phenyl boronic acid | 69 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 183 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amine | 52 mg | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)C2=CC=CC=C2)C2=NC=C(C=N2)N2CCOCC2)C=C(C1)C(F)(F)F)(F)F | C31H25F9N4O
